US08034811B2
2-[(Pyridin-4-ylmethyl)-amino]-benzoic acid pentafluorophenyl ester
To a stirred suspension of 2-[(Pyridin-4-ylmethyl)-amino]-benzoic acid (preparation 1, 300 mg) in EtOAC (10 ml) was added 2,3,4,5,6-pentafluorophenol (413 mg) followed by drop-wise addition of a solution of N,N-dicyclohexyl-carbodiimide (461 mg) in EtOAc (5 ml). The reaction mixture was stirred at room temperature for 15 hours. The formed precipitate was removed by filtration and the filtrate was evaporated under reduced pressure. The remaining material was subjected to column chromatography on silica gel (petroleum ether/EtOAc as eluent) and gave the title compound (352 mg). 13C-NMR (DMSO-d6) δ 163.2, 151.4, 149.7, 148.1, 140.9, 138.9, 137.6, 136.9, 131.9, 124.7, 121.9, 115.6, 112.5, 105.5, 44.7.

reactant | 2-[(Pyridin-4-ylmethyl)-amino]-benzoic acid | 300 mg | N1=CC=C(C=C1)CNC1=C(C(=O)O)C=CC=C1 | C13H12N2O2
reactant | 2,3,4,5,6-pentafluorophenol | 413 mg | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | 2-[(Pyridin-4-ylmethyl)-amino]-benzoic acid pentafluorophenyl ester | 352 mg | FC1=C(C(=C(C(=C1OC(C1=C(C=CC=C1)NCC1=CC=NC=C1)=O)F)F)F)F | C19H11F5N2O2
